US04303666
A solution of methyl 5-phenylseleno-2-benzimidazolecarbamate (5.0 g, 14.5 mmole) in acetic acid (50 ml.) was cooled to 10°-15° C. while 85% 3-chloroperbenzoic acid (3.0 g, 14.7 mmole) was added in portions. The solution was then allowed to warm to room temperature, and the solvent was evaporated under reduced pressure. The residue was stirred with sodium carbonate solution and filtered, and the solid product was crystallised from a mixture of equal parts of acetic acid and methanol, to give methyl 5-phenylseleninyl-2-benzimidazolecarbamate, m.p. 222° C. with decomposition. All other 5-phenylseleninylbenzimidazole carbamates of the invention may be manufactured in exactly the same manner, by using the appropriate 1-6C alkyl 5-(optionally substituted phenyl)seleno-2-benzimidazolecarbamate in place of methyl 5-phenylseleno-2-benzimidazolecarbamate.

reactant | methyl 5-phenylseleno-2-benzimidazolecarbamate | 14.5 mmole, 5.0 g | C1(=CC=CC=C1)[Se]C1=CC2=C(N=C(N2)NC(=O)OC)C=C1 | C15H13N3O2Se
reactant | 3-chloroperbenzoic acid | 14.7 mmole, 3.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | methyl 5-phenylseleninyl-2-benzimidazolecarbamate | C1(=CC=CC=C1)[Se](=O)C1=CC2=C(N=C(N2)NC(=O)OC)C=C1 | C15H13N3O3Se
